US08536159B2
(6aR,9aS)-5,6a,7,8,9,9a-hexahydro-3-(methylthio)-2-(4-(6-fluoropyridin-2-yl)benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one
(6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(methylthio)-2-(4-(6-fluoropyridin-2-yl)benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one (25 mg, 0.054 mmol) and P4S10 (48.1 mg, 0.108 mmol) are placed in a Biotage microwave vial, and then 1.0 mL of 7N ammonia in MeOH is added. The sealed vial is heated in a Biotage microwave at 150° C. for 6 h. After solvent is removed, the residue is suspended in DMF, and then filtered. The obtained filtrate is purified by a semi-preparative HPLC to give 10.6 mg of pure product as pale yellow solids (yield: 44%). MS (ESI) m/z 449.2 [M+H]+.

reactant | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(methylthio)-2-(4-(6-fluoropyridin-2-yl)benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one | 0.054 mmol, 25 mg | CN1C=2N(C=3C(C1=O)=C(N(N3)CC3=CC=C(C=C3)C3=NC(=CC=C3)F)SC)[C@@H]3[C@H](N2)CCC3 | C24H23FN6OS
reactant | P4S10 | 0.108 mmol, 48.1 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | ammonia | 7N, 1.0 mL | N | H3N
solvent | MeOH | CO | CH4O
product | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-3-(methylthio)-2-(4-(6-fluoropyridin-2-yl)benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one | 10.6 mg, yield: 44% | CSC=1N(N=C2C1C(NC=1N2[C@@H]2[C@H](N1)CCC2)=O)CC2=CC=C(C=C2)C2=NC(=CC=C2)F | C23H21FN6OS
